US06174877B1
2-(Imidazo[1,5-a]pyridin-3-yl)ethanol
Methyl 2-(imidazo[1,5-a]pyridin-3-yl)acetate (1.85 g) was dissolved in methanol (30 ml). To the solution was added sodium borohydride (3.68 g), and the mixture was stirred for one hour at 60° C. To the reaction mixture was added water (20 ml), which was concentrated under reduced pressure. The concentrate was subjected to extraction twice with ethyl acetate (40 ml). The organic layers were combined and dried over anhydrous magnesium sulfate, followed by concentration to afford the title compound (1.39 g).

reactant | Methyl 2-(imidazo[1,5-a]pyridin-3-yl)acetate | 1.85 g | C=1N=C(N2C1C=CC=C2)CC(=O)OC | C10H10N2O2
reactant | sodium borohydride | 3.68 g | [BH4-].[Na+]
reactant | water | 20 ml | O | H2O
solvent | methanol | 30 ml | CO | CH4O
product | 2-(Imidazo[1,5-a]pyridin-3-yl)ethanol | 1.39 g | C=1N=C(N2C1C=CC=C2)CCO | C9H10N2O
